US06020518
Production of ethyl (S)-(1-benzyl-3-chloro-2-oxo-propyl)carbamate (I)
In a nitrogen gas atmosphere, a solution composed of (S)-N-(ethoxycarbonyl)phenylalanine methyl ester (35.0 g, 139 mmol), sodium monochloroacetate (24.2 g, 208 mmol), magnesium chloride (19.9 g, 208 mmol) and tetrahydrofuran (125 ml) was stirred at 40° C. for 3 hours (solution A). Separately, in a nitrogen atmosphere, diisopropylamine (65.0 g, 642 mmol) was added dropwise at 40° C. over 30 minutes to n-butylmagnesium chloride (2 M THF solution, 278 ml, 556 mmol) and the resulting mixture was further stirred at 40° C. for 2 hours (solution B). Solution B was added at about 10° C. (inside temperature) over about 30 minutes to solution A. After completion of the addition, the inside temperature was raised to 40° C. and stirring was continued for further 2 hours. Then, the reaction mixture was mixed with 900 ml of an ice-cooled mixed solution composed of 10% (w/v) aqueous solution of sulfuric acid and 550 ml of ethyl acetate with stirring. After thorough mixing, the mixture was allowed to separate into layers. The organic layer was washed in sequence with a saturated aqueous solution of sodium hydrogen carbonate (300 ml) and a saturated solution of sodium chloride (300 ml) and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, 30 ml of isopropanol was added to the residue, the mixture was heated to 60 to effect dissolution, 600 ml of hexane was then added, and the mixture was gradually cooled to 5° C. for allowing crystallization. The precipitate crystals were collected by filtration, washed with hexane and dried under reduced pressure to give 28.5 g of white needle crystals. 1H NMR (400 MHz, CDCl3): δ7.35 to 7.16 (m, 5H), 5.17 (d, 1H), 4.75 (q, 1H), 4.17 to 4.08 (m, 2H), 4.00 to 3.96 (ds, 2H), 3.09 to 3.07 (m, 2H), 1.23 (t, 3H)

reactant | (S)-N-(ethoxycarbonyl)phenylalanine methyl ester | 139 mmol, 35.0 g | COC([C@@H](NC(=O)OCC)CC1=CC=CC=C1)=O | C13H17NO4
reactant | sodium monochloroacetate | 208 mmol, 24.2 g | ClCC(=O)[O-].[Na+]
reactant | magnesium chloride | 208 mmol, 19.9 g | [Cl-].[Mg+2].[Cl-]
reactant | diisopropylamine | 642 mmol, 65.0 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butylmagnesium chloride | 556 mmol, 2 M, 278 ml | C(CCC)[Mg]Cl
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 550 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | ethyl (S)-(1-benzyl-3-chloro-2-oxo-propyl)carbamate | 28.5 g | C(C1=CC=CC=C1)[C@@H](C(CCl)=O)NC(OCC)=O | C13H16ClNO3
